US07652023B2
5-chloro-2-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-isothiocyanato-2-phenylethyl)pyridine (0.047 g, 0.108 mmol) in dioxane (3 mL) in a two drum vial was added 2-azido-1-phenylethanone (21 mg, 0.129 mmol) and solid bound triphenylphosphine (100 mg, 0.162 mmol). The reaction was heated at 90° C. for 1 hour. The reaction was concentrated and the crude mixture was purified by preparative HPLC (phenominex C18 column, 21×100 mm, 5μ) using MeOH/H2O (0.1% TFA) to give N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-5-phenyloxazol-2-amine as a yellow solid (7 mg, 12% yield). LCMS: 4.1 min [M+1] 538.2 (4 min gradient, MeOH/H2O 0.1% TFA); 1H NMR (400 MHz, CDCl3) δ ppm 3.97-4.02 (m, 1H), 4.06-4.13 (m, 1H), 6.52 (d, J=7.58 Hz, 2H), 7.09 (t, J=7.46 Hz, 2H), 7.15 (s, 1H), 7.17 (dd, J=6.36, 1.71 Hz, 3H), 7.23 (d, J=8.56 Hz, 1H), 7.30-7.40 (m, 5H), 7.68-7.73 (m, 2H), 8.50 (d, J=2.20 Hz, 1H).

reactant | 5-chloro-2-(1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-isothiocyanato-2-phenylethyl)pyridine | 0.108 mmol, 0.047 g | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(N=C=S)C1=CC(=CC(=C1)C(F)(F)F)F | C21H13ClF4N2S
reactant | 2-azido-1-phenylethanone | 0.129 mmol, 21 mg | N(=[N+]=[N-])CC(=O)C1=CC=CC=C1 | C8H7N3O
reactant | triphenylphosphine | 0.162 mmol, 100 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-5-phenyloxazol-2-amine | 7 mg, 12% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC=1OC(=CN1)C1=CC=CC=C1 | C29H20ClF4N3O
